US07632840B2
4-(3-Chloro-2-fluoroanilino)-7-methoxyquinazoline-6-carbaldehyde was coupled with (2-pyrrolidin-1-ylethyl)amine using an analogous method to that described for the equivalent step in Example 1 to give N-(3-chloro-2-fluorophenyl)-7-methoxy-6-{[(2-pyrrolidin-1-ylethyl)amino]methyl}quinazolin-4-amine; 1H NMR Spectrum: (DMSO-d6) 1.66 (m, 4H); 2.40 (m, 4H); 2.55 (t, 2H); 2.67 (t, 2H); 3.85 (s, 2H); 3.96 (s, 3H); 7.21 (s, 1H); 7.28 (t, 1H); 7.51 (m, 2H); 8.32 (s, 1H); 8.44 (s, 1H); 9.78 (s, 1H); Mass Spectrum: (M+H)+ 430.

reactant | 4-(3-Chloro-2-fluoroanilino)-7-methoxyquinazoline-6-carbaldehyde | ClC=1C(=C(NC2=NC=NC3=CC(=C(C=C23)C=O)OC)C=CC1)F | C16H11ClFN3O2
reactant | (2-pyrrolidin-1-ylethyl)amine | N1(CCCC1)CCN | C6H14N2
product | N-(3-chloro-2-fluorophenyl)-7-methoxy-6-{[(2-pyrrolidin-1-ylethyl)amino]methyl}quinazolin-4-amine | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CNCCN1CCCC1)OC)F | C22H25ClFN5O
